US07259183B2
Preparation of [3-chloro-4-(1-methoxy-1-methyl-ethyl)-benzyl]-[2-(3,4-dichloro-phenyl)-ethyl]-amine
The title compound was synthesized in analogy to (4-cyclopropylbenzyl)-[2-(4-fluoro-3-trifluoromethylphenyl)-ethyl]-amine (described in example S53) using 77 mg of 3-chloro-4-(1-methoxy-1-methyl-ethyl)-benzaldehyde (0.36 mmol) (described in example S117), 69 mg of 2-(3,4-dichloro-phenyl)-ethylamine (0.36 mmol) and 21 mg of sodium borohydride (0.54 mmol). The isolated colorless liquid (126 mg, 90%) was used in the following step without further purification. MS (ISP) 386.1 (M+H)+.

reactant | (4-cyclopropylbenzyl)-[2-(4-fluoro-3-trifluoromethylphenyl)-ethyl]-amine | C1(CC1)C1=CC=C(CNCCC2=CC(=C(C=C2)F)C(F)(F)F)C=C1 | C19H19F4N
reactant | 3-chloro-4-(1-methoxy-1-methyl-ethyl)-benzaldehyde | 0.36 mmol, 77 mg | ClC=1C=C(C=O)C=CC1C(C)(C)OC | C11H13ClO2
reactant | 2-(3,4-dichloro-phenyl)-ethylamine | 0.36 mmol, 69 mg | ClC=1C=C(C=CC1Cl)CCN | C8H9Cl2N
reactant | sodium borohydride | 0.54 mmol, 21 mg | [BH4-].[Na+]
product | [3-chloro-4-(1-methoxy-1-methyl-ethyl)-benzyl]-[2-(3,4-dichloro-phenyl)-ethyl]-amine | ClC=1C=C(CNCCC2=CC(=C(C=C2)Cl)Cl)C=CC1C(C)(C)OC | C19H22Cl3NO
